US04582847
1-(4-Benzyloxy-3-methylbenzyl)-4-chloro-5-cyanomethylimidazole (10 g) was boiled in 100 ml of trifluoroacetic acid for 15 minutes. The reaction mixture was then evaporated to dryness and the residue was chromatographed on a column of silica gel (100 g) using chloroform as an eluent. The desired fractions were combined and concentrated to about 20 ml to give 3.7 g of 4-chloro-5-cyanomethyl-1-(4-hydroxy-3-methylbenzyl)-2-phenylimidazole as colorless prisms, m.p. 194°-196° C.

reactant | 1-(4-Benzyloxy-3-methylbenzyl)-4-chloro-5-cyanomethylimidazole | 10 g | C(C1=CC=CC=C1)OC1=C(C=C(CN2C=NC(=C2CC#N)Cl)C=C1)C | C20H18ClN3O
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-chloro-5-cyanomethyl-1-(4-hydroxy-3-methylbenzyl)-2-phenylimidazole | 3.7 g | ClC=1N=C(N(C1CC#N)CC1=CC(=C(C=C1)O)C)C1=CC=CC=C1 | C19H16ClN3O
